US07592365B2
0.171 cm3 (1.22 mmol) of triethylamine and 0.098 mg (0.61 mmol) of 3-cyclopentylpropionyl chloride are added, at a temperature close to 25° C., to a solution of 0.15 g (0.61 mmol) of 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide in 25 cm3 of tetrahydrofuran. After stirring for 16 hours at this temperature, the reaction medium is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is stirred in 40 cm3 of water and then extracted with three times 40 cm3 of ethyl acetate. The organic phase is washed with 80 cm3 of a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give 0.218 g of 2-(3-cyclopentyl-propionylamino)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide in the form of a green powder. 1H NMR (400 MHz, (CD3)2SO, —δ in ppm) 1.11 (m, 2H); from 1.42 to 1.65 (m, 6H); from 1.69 to 1.86 (m, 3H); 2.39 (t, J=8.0 Hz, 2H); from 6.17 to 8.50 (very broad m, 2H); 6.79 (d, J=2.5 Hz, 1H); 7.63 (d, J=9.0 Hz, 2H); 8.18 (d, J=9.0 Hz, 2H); 10.35 (broad s, 1H); 11.6 (broad s, 1H)

reactant | triethylamine | 1.22 mmol, 0.171 cm3 | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentylpropionyl chloride | 0.61 mmol, 0.098 mg | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 2-amino-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.61 mmol, 0.15 g | NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C11H10N4O3
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | water | 40 cm3 | O | H2O
product | 2-(3-cyclopentyl-propionylamino)-4-(4-nitrophenyl)-1H-pyrrole-3-carboxamide | 0.218 g | C1(CCCC1)CCC(=O)NC=1NC=C(C1C(=O)N)C1=CC=C(C=C1)[N+](=O)[O-] | C19H22N4O4
